US06727264B1
N-(3-{1-[4-(3,4-DIMETHYLPHENOXY)BUTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme B1 using 4-(4-chlorobutoxy)-1,2-dimethylbenzene and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 423.2 (M+H)+.

reactant | 4-(4-chlorobutoxy)-1,2-dimethylbenzene | ClCCCCOC1=CC(=C(C=C1)C)C | C12H17ClO
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[4-(3,4-DIMETHYLPHENOXY)BUTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | CC=1C=C(OCCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=CC1C | C27H38N2O2
